US09193689B2
5-Bromo-3-[4-(2-dimethylaminoethoxy)phenyl]-2H-isoquinolin-1-one (50.0 mg, 0.130 mmol), triethylamine (1.1 mL, 8.36 mmol), dichlorobis(triphenylphosphine)palladium(II) (5.0 mg, 0.0065 mmol), copper (I) iodide (3.0 mg, 0.009 mmol), 3-butyn-1-ol (20 μL, 0.260 mmol) in DMF (1.1 mL) were added to a microwave vial and the reaction mixture purged with N2 for 5 min. The reaction mixture was irradiated using a microwave reactor (300 W, 100° C., 90 min). The reaction mixture was filtered through Celite® 545, diluted with DMSO and was purified by reverse phase preparative HPLC-MS to obtain 3-[4-(2-dimethylaminoethoxy)phenyl]-5-(4-hydroxybut-1-ynyl)-2H-isoquinolin-1-one as a brown solid (19.0 mg, 39%).

reactant | 5-Bromo-3-[4-(2-dimethylaminoethoxy)phenyl]-2H-isoquinolin-1-one | 0.130 mmol, 50.0 mg | BrC1=C2C=C(NC(C2=CC=C1)=O)C1=CC=C(C=C1)OCCN(C)C | C19H19BrN2O2
reactant | triethylamine | 8.36 mmol, 1.1 mL | C(C)N(CC)CC | C6H15N
reactant | 3-butyn-1-ol | 0.260 mmol, 20 μL | C(CC#C)O | C4H6O
solvent | DMF | 1.1 mL | CN(C)C=O | C3H7NO
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.0065 mmol, 5.0 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 0.009 mmol, 3.0 mg | [Cu]I
product | 3-[4-(2-dimethylaminoethoxy)phenyl]-5-(4-hydroxybut-1-ynyl)-2H-isoquinolin-1-one | 19.0 mg, 39% | CN(CCOC1=CC=C(C=C1)C=1NC(C2=CC=CC(=C2C1)C#CCCO)=O)C | C23H24N2O3
